US06992101B2
2-Chloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid-[1-benzyl-2-methoxy-2-(methoxymethyl-carbamoyl)-ethyl]-amide (1b, Z=O, R′″=CH3)
Triethylamine was added dropwise to a solution of 3-amino-2,N-dimethoxy-N-methyl-4-phenyl-butyramide (PCT International Application Publication No. WO 96/39385) (1.65 g, 5.71 mmol) in DMF (15 mL) and cooled in an ice bath. A solution of 2-chloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid (U.S. Pat. No. 6,399,601) (1.1 g, 5.71 mmol) in 15 mL of DMF was added dropwise followed by the addition of HOBT (1.16 g, 11.4 mmol) neat. The reaction mixture was stirred for 5 min and N-ethyliminomethylene-N,N′-dimethyl-propane-1,3-diamine (1.10 g, 5.71 mmol) was added neat. The resulting mixture was stirred at room temperature for 18 hrs. The reaction mixture was diluted with ethyl acetate (150 mL) and washed with saturated ammonium chloride, water, and brine. The ethyl acetate was dried and evaporated in vacuo to yield 2.54 g of crude product. Chromatography over silica gel, eluting with ethyl acetate/hexanes (1:2), afforded 1.43 g of the title compound.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-amino-2,N-dimethoxy-N-methyl-4-phenyl-butyramide | NC(C(C(=O)N(C)OC)OC)CC1=CC=CC=C1 | C13H20N2O3
reactant | 2-chloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid | ClC1=CC2=C(NC(=C2)C(=O)O)S1 | C7H4ClNO2S
reactant | HOBT | 11.4 mmol, 1.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-Chloro-6H-thieno[2,3-b]pyrrole-5-carboxylic acid-[1-benzyl-2-methoxy-2-(methoxymethyl-carbamoyl)-ethyl]-amide | 1.43 g | C(C1=CC=CC=C1)C(C(C(NCOC)=O)OC)NC(=O)C1=CC2=C(N1)SC(=C2)Cl | C20H22ClN3O4S
